US07557103B2
Preparation of 8-(1-ethyl-propyl)-3-(3,5-dimethyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (Method B)
A mixture of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.145 mmol), 3-methyl-benzo[b]thiophene (7.25 mmol), Pd2 dba3 (0.0072 mmol), triphenylphosphine (0.029 mmol), and cesium carbonate (0.29 mmol) in previously degassed DMF (0.5 ml) is added to a pressure tube with a stirring bar. The mixture is degassed for 30 min. After heating for 16 h at 130° C., reaction mixture is cooled, diluted with diethylether and washed with saturated aqueous ammonium chloride solution. The organic layer is dried over anhydrous magnesium sulfate, filtered, and the solvent is removed in vacuo. The residue is purified by silica gel column chromatography using mixtures of hexane-ethyl acetate as eluent to give the title compound (85%).

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.145 mmol | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | 3-methyl-benzo[b]thiophene | 7.25 mmol | CC=1C2=C(SC1)C=CC=C2 | C9H8S
reactant | triphenylphosphine | 0.029 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cesium carbonate | 0.29 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | diethylether | C(C)OCC | C4H10O
catalyst | Pd2 dba3 | 0.0072 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 8-(1-ethyl-propyl)-3-(3,5-dimethyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 85% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=C(S2)C=CC(=C1)C)C | C23H27N3S
